US07271153B2
To a solution of 4-(2-methoxymethyloxyethyl) bromobenzene (0.60 g) in tetrahydrofuran (6 mL) was added tert-butyllithium (1.5 mol/L solution in hexane, 2.0 mL) at −78° C. under an argon atmosphere, and the mixture was stirred for 30 minutes. Then, a solution of 2-benzyloxy-3-formyl-4,6-dimethylpyridine (0.49 g) in tetrahydrofuran (5 mL) was added to the reaction mixture, and the mixture was stirred for 3 hours at 0° C. To the reaction mixture was added saturated aqueous ammonium chloride solution, and the mixture was extracted with dimethyl ether. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=5/1) to give 2-benzyloxy-4,6-dimethylpyridin-3-yl 4-(2-methoxymethyloxyethyl)phenyl methanol (0.74 g). To a solution of the obtained 2-benzyloxy-4,6-dimethylpyridin-3-yl 4-(2-methoxymethyloxyethyl)phenyl methanol (0.11 g) in ethanol (5.3 mL) was added 10% palladium carbon powder (0.065 g), and the mixture was stirred for 11 hours at room temperature under a hydrogen atmosphere. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by preparative thin layer chromatography on silica gel (developing solvent: dichloro-methane/methanol=10/1) to give 3-[4-(2-methoxymethyloxy-ethyl)benzyl]-4,6-dimethyl-1H-pyridin-2-one (0.074 g).

reactant | 2-benzyloxy-4,6-dimethylpyridin-3-yl 4-(2-methoxymethyloxyethyl)phenyl methanol | 0.11 g | C(C1=CC=CC=C1)OC1=NC(=CC(=C1C(O)C1=CC=C(C=C1)CCOCOC)C)C | C25H29NO4
solvent | ethanol | 5.3 mL | C(C)O | C2H6O
catalyst | palladium carbon | 0.065 g | [C].[Pd]
product | 3-[4-(2-methoxymethyloxy-ethyl)benzyl]-4,6-dimethyl-1H-pyridin-2-one | 0.074 g | COCOCCC1=CC=C(CC=2C(NC(=CC2C)C)=O)C=C1 | C18H23NO3
